Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Seroquel / Erythromycin Base / 
Reglan / Elavil
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMH notable for gastroparesis (currently with G-tube and NJ 
tube), eating disorder in remission, history of SIBO (previously 
treated with rifaximin), and bipolar disorder on lithium who 
presents with acute on chronic abdominal pain of similar 
character to the pain she was admitted for ___.

She was in her usual health until ___ when she began to 
develop mild symptoms of n, v, decreased PO intake and abdominal 
pain c/w her gastroperesis that is thought to be ___ her eating 
disorder. In ___ she reports significant worsening w/ no 
known triggers and at the time of her admission in ___ 
she had lost 15 lbs. During that hospitalization, an EGD was 
performed that showed PEG placement, gastric erosion, and 
otherwise normal EGD to the third part of the duodenum. During 
the EGD, an NJ tube was placed, which she has been using for 
tube feeds since discharge.

Since leaving the hospital ___, she was using her NJ tube 
as her primary source of nutrition, specifically 3 cans of 
feeds/night. She reports poor PO intake (mostly water) w/ no n 
or v except for ___ after taking more PO than usual. She 
reports baseline constant ___ dull, achey diffuse abdominal 
pain that does not radiate. Additionally, she experiences 
transient, non-positional ___ sharp, focal LUQ abdominal 
pain that is triggered by eating (w/ in 30 minutes) and 
overexertion. 

One day prior to admission, she was participating in a dance 
performance and experienced the sharp abdominal pain described 
above in addition to dizziness and disorientation. After the 
performance, she was so disoriented she was unable to find her 
car and called ___, after which she was BIBA to ___, 
where she recieved IV fluids, dilaudid/morphine for pain, and 
odansetron for nausea. Upon her request, she was transferred to 
___ for further care given her prior admissions here.

Throughout this, she reports baseline BMs (varies between 
constipation and diarrhea) with no BRBPR or melena. Otherwise, 
she denies fevers, chills, night sweats, cough, dysuria, changes 
in urination. She currently has a G-tube and NJ tube that she 
reports are functioning normally with no erythema or changes in 
how they feel recently.  

In the ED, initial vitals: 97.9 HR 60 BP 90/52 RR 18 99% RA
- Exam notable for: TTP in LUQ, otherwise benign exsam.
- Labs notable for: WBC 6.9 Hgb 11.0 Plt 209, K 3.5 Cr 0.6
Albumin 3.4. UA clean, Ucg negative, LFTs WNL
- Imaging: None
- Consultants: None
- Patient was given: 1L NS, Dilaudid 1 mg, zofran 4 mg, benadryl 
25 mg
- Vitals prior to transfer: 98.1 HR 49 BP 97/64 RR 18 99% RA

On arrival to the floor, pt reports continued abdominal pain of 
hte same character and frequency. 

ROS: Please refer to HPI for pertinent positives and negatives. 
10 point ROS is otherwise negative.

 
Past Medical History:
 Gastroparesis - first received G-J Tube ___, had been doing 
well and converted to G-tube ___. NJ tube placed ___ and on 
tube feeds currently. Confirmed gastric empyting study in ___ 
that shows ___ hour delayed emptying. 
# Eating disorder NOS (thought to be the likely etiology of 
gastroparesis). Has treatment team, including psychiatrist, PCP, 
___, and ___
# Small Intestinal Bacterial Overgrowth - treated with 
intermittent rifaximin  
# GERD  
# Bipolar disorder (on lithium, previous episode of lithium 
toxicity requiring admission in the past) 
 

 
Social History:
___
Family History:
Pertinent for mother with breast cancer and a half sister with 
type 1 diabetes and a cousin with ___ disease.

 
Physical Exam:
Admission Exam: ___
Vitals: Tm 97.4 BP 102/70 HR 65 RR 16 SaO2 100% RA
wt: 61.3kg 
General: AAOx3, comfortable appearing, in NAD
HEENT: NCAT, PERRL. Sclera anicteric, conjunctiva pink. MMM. OP 
clear. NJ tube in place.
Neck: supple, no LAD, no JVP elevation
Lungs: CTAB, no w/r/r
CV: RRR, normal S1 and S2, no m/g/r
Abdomen: NABS, soft, nondistended, mild TTP in LUQ. No guarding 
or rebound. No HSM.
GU: no foley
Ext: WWP. 2+ peripheral pulses. No edema.
Neuro: CNs II-XII intact. Grossly normal strength and sensation.

Discharge Exam: ___
Vitals:  Tm/Tc: 98.7/98.3, BP 93/58 (90-100s/40-50s) HR 56 
(50-60s) RR 18 SaO2 96% RA, wt 51.9kg (51.4kg 1 day ago)
General: alert, oriented, no acute distress laying down in bed
HEENT: sclera anicteric, MMM, oropharynx clear. NJ tube in 
place, delivering 50ccs/hour of TF.
Neck: supple, JVP not appreciated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, mild TTP in LUQ w/ no grimace, non-distended, 
bowel sounds present, no rebound tenderness or guarding, no 
organomegaly. G-tube in place w/ no erythema or warmth.  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNs2-12 intact, motor function and sensation grossly 
normal
 
Pertinent Results:
Admission labs:
___ 02:30AM   WBC-6.9 RBC-3.50* HGB-11.0* HCT-31.5* MCV-90 
MCH-31.3 MCHC-34.8 RDW-12.7
___ 02:30AM   NEUTS-59.9 ___ MONOS-4.9 EOS-2.9 
BASOS-0.1
___ 02:30AM   PLT COUNT-209
___ 02:30AM   GLUCOSE-96 UREA N-5* CREAT-0.6 SODIUM-141 
POTASSIUM-3.5 CHLORIDE-113* TOTAL CO2-20* ANION GAP-12
___ 02:39AM   K+-3.5
___ 02:30AM   ALT(SGPT)-10 AST(SGOT)-15 ALK PHOS-56 TOT 
BILI-0.3
___ 02:30AM   LIPASE-47
___ 02:30AM   ALBUMIN-3.4*
___ 05:00AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:00AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-TR
___ 05:00AM URINE  RBC-1 WBC-4 BACTERIA-NONE YEAST-NONE 
EPI-2
___ 05:00AM URINE  MUCOUS-RARE

IMAGING:
___ ___
IMPRESSION: 
1. Nasoenteric tube tip overlies the proximal jejunum, beyond 
the ligament of Treitz.  Of note, there is a very focal of 
narrowing of the tube (> 50%) just proximal to ligament of 
Treitz. 
2. Equivocal mural thickening along the greater curvature of the 
stomach.  However, this may very well represent artifact. 
3. Non-specific bowel gas pattern.  Allowing for limitations of 
supine film, no free air is detected. 
4. Rounded density in the left upper quadrant of uncertain 
etiology or location --clinical correlation requested 

MICRO:
None

Discharge Labs:
None
 
Brief Hospital Course:
___ with ___ notable for gastroparesis (currently with G-tube 
and NJ tube), eating disorder in remission, history of SIBO 
(previously treated with rifaximin), and bipolar disorder on 
lithium who presents with acute on chronic abdominal pain of 
similar character to the pain she was admitted for 
___ that was found to be ___ gastroperesis and 
dizziness on exertion.

ACTIVE ISSUES:
==============
# Abdominal pain:
This abdominal pain is of the same character of her chronic 
abdominal pain that has actutely worsened. On exam, her abdomen 
was non-acute. KUB showed no evidence of obstruction of her NJ 
or G tube and provided no explanation for her abdominal pain. 
Etiology is unclear given her NJ tube bypasses her stomach and 
she is not taking PO, which makes gastroparesis unlikely.  
Infectious etiology is unlikely given that she was 
hemodynamically stable without nausea, vomiting, or diarrhea. 
IBD is unlikely given no family or personal history of IBD and 
she has no symptoms or signs. NJ tube is functioning without 
evidence of obstruction per patient and patient tolerated 
restarting of tube feeds per NJ tube at 50ccs/hour for 15 hours 
QHS with minimal nausea. Her pain was managed with 2mg dilaudid 
PO with PO benadryl 30 minutes prior, standing acetaminophen, 
and PRN ibuprofen. Her dilaudid was stopped on ___ in order 
to avoid its paralytic effects on the GI tract, lowering of her 
blood pressure, and prevent long-term dependence.  Nausea was 
managed with IV odansetron, which was transitioned to PO prior 
to discharge.

# Episodic hypotension:
Pt's dizziness and confusion on exertion is most likely due to 
dehydration due to poor PO intake despite NJ tube placement. 
Because of her past history with hypotension after morphine, 
this was not given. Her blood pressures were near baseline at 
___ with ___ episodes of ___, during which she was 
asymptomatic. This resolved with increased PO hydration and was 
likely related to poor PO intake.
 
CHRONIC ISSUES:
==============
# Eating Disorder: 
Her baseline weight is around 127 lbs and she denies a goal 
weight that her eating disorder team has agreed upon. She has 
been seeing Dr. ___ weekly weights and her dietitian, 
___, monthly.  The patient did not feel that her eating 
disorder was contributing to her current presentation.  

# Bipolar Disorder: 
Continued lithium.
  
# GERD: 
Continued omeprazole.  

# ADHD: 
Held Adderall per patient.  

# Hypothyroidism: 
Continued levothyroxine

TRANSITIONAL ISSUES:
====================
# Given recent increase in use of opioids over the past several 
months, she was discharged with no opioids and it is suggested 
that there be a high threshold for providing them given 
potential for dependence. Benadryl was given PO instead of IV to 
avoid associated euphoria with combined IV benadryl and 
dilaudid. 
# Follow-up with PCP and eating disorder care team (therapist, 
dietition, psychiatrist, and PCP) to develop outpatient plan for 
treating abdominal pain.
# GI follow-up is scheduled to address ___ tube and chronic 
abdominal pain
# Emergency contact: ___ ___ (mother)
# Code: Full (confirmed) 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 3 mg PO QHS 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Lithium Carbonate 600 mg PO BID 
4. Omeprazole 20 mg PO BID 
5. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
6. TraZODone 200 mg PO QHS 
7. dextroamphetamine-amphetamine 10 mg ORAL DAILY 
8. metaxalone 800 mg oral DAILY:PRN Spasm 
9. Ondansetron 8 mg PO Q8H:PRN Nausea 
10. Sumatriptan Succinate 0 mg PO Frequency is Unknown 

 
Discharge Medications:
1. ClonazePAM 3 mg PO QHS 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Lithium Carbonate 600 mg PO BID 
4. Omeprazole 20 mg PO BID 
5. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
6. TraZODone 200 mg PO QHS 
7. dextroamphetamine-amphetamine 10 mg ORAL DAILY 
8. metaxalone 800 mg oral DAILY:PRN Spasm 
9. Ondansetron 8 mg PO Q8H:PRN Nausea 
10. Sumatriptan Succinate 0 mg PO Q12H:PRN migraines 
11. Acetaminophen 1000 mg PO Q8H 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Abdominal pain/Irritable Bowel Syndrome

Secondary:
Gastroparesis
Eating Disorder in Remission
GERD
Bipolar disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure to care for you during your hospitalization at 
___.

You were admitted for abdominal pain. We got an xray picture of 
your abdomen, which showed your NJ tube and G tube in the 
correct place with no clear evidence of obstruction. For the 
pain, we gave you tylenol (acetaminophen) and dilaudid 
(hydromorphone) by mouth with benadryl 30 minutes before to help 
with itching. We stopped the dilaudid on ___ out of concern 
for its negative effects on your GI tract (slowing it down), 
blood pressures, and to minimize dependence. For these reasons, 
we are not sending you home with opioids like dilaudid 
(hydromorphone).

For your nausea, we gave you zofran (ondansetron). Since you 
were feeling lightheaded, likely from not eating enough, we gave 
you IV fluids. We restarted your tube feeds at approximately the 
same rate you were having them at home (50 mls/hour for around 
15 hours), which you tolerated with minimal nausea. We also 
allowed you to eat by mouth, which you did with minimal nausea 
and no vomiting.

We have touched base with your PCP to discuss your 
hospitalization and you have a GI appointment in the near future 
(see below).

-Your ___ care team

 
Followup Instructions:
___